// Generated for: spectre
// Generated on: Jun  3 12:00:40 2024
// Design library name: Narasimhan
// Design cell name: Mixer_SB_CM_25D_TB_tsmc
// Design view name: schematic
simulator lang=spectre
global 0
parameters cap_w=10
parameters res_w=50
parameters gm=20m
parameters RN=250
parameters flo=500M
parameters Bandwidth=10M
parameters G=100
parameters sw_mul=40
parameters temperature=27
include "/cad/library/TSMC/65/lp/tsmcN65/../models/spectre/toplevel.scs" section=tt_lib

// Library name: Narasimhan
// Cell name: transimpedance_amplifier_tsmc
// View name: schematic
subckt transimpedance_amplifier_tsmc In Out
parameters _par0=100 _par1=100 _par2=20
    E0 (Out 0 0 In) vcvs gain=_par0 type=vcvs
    R4 (Out net09 0) rppolyl_rf l=_par1*1u w=2u m=1 mismatchflag=0
    R3 (net09 net08 0) rppolyl_rf l=_par1*1u w=2u m=1 mismatchflag=0
    R2 (net10 net08 0) rppolyl_rf l=_par1*1u w=2u m=1 mismatchflag=0
    R0 (In net11 0) rppolyl_rf l=_par1*1u w=2u m=1 mismatchflag=0
    R1 (net11 net10 0) rppolyl_rf l=_par1*1u w=2u m=1 mismatchflag=0
    C2 (In Out) mimcap_sin lt=_par2*2u wt=_par2*2u mimflag=3 mf=1 \
        mismatchflag=0
    C1 (In Out) mimcap_sin lt=_par2*2u wt=_par2*2u mimflag=3 mf=1 \
        mismatchflag=0
    C0 (In Out) mimcap_sin lt=_par2*2u wt=_par2*2u mimflag=3 mf=1 \
        mismatchflag=0
ends transimpedance_amplifier_tsmc
// End of subcircuit definition.

// Library name: Narasimhan
// Cell name: current_mode_25D_mixer_tsmc
// View name: schematic
subckt current_mode_25D_mixer_tsmc IF_N IF_P LO\+ LO\- RF
    M1 (RF LO\- net4 0) nmos_rf lr=60n wr=2u nr=1 sa=450.0n sb=450.0n \
        sd=240.0n sca=1.53113 scb=3.91406e-06 scc=5.45081e-12 m=sw_mul \
        sigma=1
    M0 (RF LO\+ net8 0) nmos_rf lr=60n wr=2u nr=1 sa=450.0n sb=450.0n \
        sd=240.0n sca=1.53113 scb=3.91406e-06 scc=5.45081e-12 m=sw_mul \
        sigma=1
    I1 (net4 IF_N) transimpedance_amplifier_tsmc _par0=G _par1=res_w \
        _par2=cap_w
    I0 (net8 IF_P) transimpedance_amplifier_tsmc _par0=G _par1=res_w \
        _par2=cap_w
ends current_mode_25D_mixer_tsmc
// End of subcircuit definition.

// Library name: Narasimhan
// Cell name: Mixer_SB_CM_25D_TB_tsmc
// View name: schematic
I0 (VO_IN VO_IP LO_0 LO_180 net06) current_mode_25D_mixer_tsmc
I1 (VO_QN VO_QP LO_90 LO_270 net06) current_mode_25D_mixer_tsmc
PORT0 (net05 0) port r=50 type=dc pacmag=1
PORT6 (net026 net025) port r=50 type=dc
PORT5 (net027 net028) port r=50 type=dc
R5 (net046 0) resistor r=RN
R4 (net05 0) resistor r=50
R3 (net16 0) resistor r=50
R2 (net10 0) resistor r=50
R1 (net17 0) resistor r=50
R0 (net11 0) resistor r=50
PORT4 (net16 0) port r=50 type=pulse delay=0.75*(1/flo) val0=0 val1=1.2 \
        period=1/flo rise=0.001*(1/flo) fall=0.001*(1/flo) \
        width=0.25*(1/flo) fundname="LO_270"
PORT2 (net17 0) port r=50 type=pulse delay=0.25*(1/flo) val0=0 val1=1.2 \
        period=1/flo rise=0.001*(1/flo) fall=0.001*(1/flo) \
        width=0.25*(1/flo) fundname="LO_90"
PORT3 (net10 0) port r=50 type=pulse delay=0.5*(1/flo) val0=0 val1=1.2 \
        period=1/flo rise=0.001*(1/flo) fall=0.001*(1/flo) \
        width=0.25*(1/flo) fundname="LO_180"
PORT1 (net11 0) port r=50 type=pulse delay=0 val0=0 val1=1.2 period=1/flo \
        rise=0.001*(1/flo) fall=0.001*(1/flo) width=0.25*(1/flo) \
        fundname="LO_0"
E7 (net025 0 VO_QN 0) vcvs gain=1.0
E4 (net028 0 VO_IN 0) vcvs gain=1.0
E5 (net027 0 VO_IP 0) vcvs gain=1.0
E6 (net026 0 VO_QP 0) vcvs gain=1.0
E0 (LO_0 0 net11 0) vcvs gain=1.0
E1 (LO_180 0 net10 0) vcvs gain=1.0
E3 (LO_270 0 net16 0) vcvs gain=1.0
E2 (LO_90 0 net17 0) vcvs gain=1.0
G0 (net046 0 net05 0) vccs gm=gm
V0 (net046 net06) vsource dc=0 type=dc
simulatorOptions options psfversion="1.1.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=temperature tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
// ANALYSIS STATEMENTS
pss_test  pss  fund=flo  harms=50  errpreset=conservative
+    annotate=status
pnoise_test  (  VO_IP  VO_IN  )  pnoise  sweeptype=absolute  start=1K
+       stop=Bandwidth  lin=200  maxsideband=10  iprobe=PORT0  refsideband=-1
+       noiseout=[usb]  annotate=status
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
